US06313122B1
A. 2-Amino-4-(N-tert-butoxycarbonylamino)nitrobenzene
A solution of 2,4-diamino-nitrobenzene (500 mg, 3.26 mmol) in 30 mL of THF at −10° C. was treated with potassium hexamethyldisilazide (6.86 mL, 0.5M in toluene, 3.43 mmol). After 0.2 h, the mixture was treated with di-tert-butyl dicarbonate (749 mg, 3.43 mmol) and stirred for 2 h. The mixture was poured into EtOAc and saturated NaCl (aq). The organic layer was dried (MgSO4), concentrated, and the residue purified by chromatography (19:1 CH2Cl2:EtOAc) yielding 370 mg (45%) of the title compound.

reactant | 2,4-diamino-nitrobenzene | 3.26 mmol, 500 mg | NC1=C(C=CC(=C1)N)[N+](=O)[O-] | C6H7N3O2
reactant | potassium hexamethyldisilazide | 3.43 mmol, 0.5M, 6.86 mL | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | di-tert-butyl dicarbonate | 3.43 mmol, 749 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaCl | [Na+].[Cl-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Amino-4-(N-tert-butoxycarbonylamino)nitrobenzene | 370 mg, 45% | NC1=C(C=CC(=C1)NC(=O)OC(C)(C)C)[N+](=O)[O-] | C11H15N3O4
